US05168103
Ethanolic ammonia (235 mL) was combined with [(E)-4[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-2-butenyl]phosphonic acid diethyl ester (7.15 g, 21.6 mmol) and the solution was left stirring for 3 days and then evaporated. Recrystallization from methanol in ethyl acetate removed a yellow impurity, but flash chromatography (7.5 cm diameter, elution with 5% methanol in dichloromethane) was required to eliminate a more polar contaminant. Recrystallization of this material with methanol in ethyl acetate (final volume=200 mL) afforded [(E)-4-[(2-amino-3,4-dioxo-1-cyclobuten-1-yl)amino]-2-butenyl]phosphonic acid diethyl ester as a flocculant white solid (4.43 g, 68%, mp 145°-147° C.); IR (KBr, cm-1): 3280, 3100, 1800, 1640; MS (+FAB): 303 (MH+, 100), 135 (62); 1H NMR (DMSO, 400 MHz): δ 7.5 (br s, 3NH), 5.74-5.68 (m, 1H), 5.57-5.48 (m, 1H), 4.09 (br s, 2H), 4.02-3.91 (m, 4H), 2.64 (d of d, J=21.5 and 7 Hz, 2H), 1.19 (t, J=7 Hz, 6H).

reactant | ammonia | 235 mL | N | H3N
reactant | [(E)-4[(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-2-butenyl]phosphonic acid diethyl ester | 21.6 mmol, 7.15 g | C(C)OP(OCC)(=O)C\C=C\CNC1=C(C(C1=O)=O)OCC | C14H22NO6P
product | [(E)-4-[(2-amino-3,4-dioxo-1-cyclobuten-1-yl)amino]-2-butenyl]phosphonic acid diethyl ester | 4.43 g, 68% | C(C)OP(OCC)(=O)C\C=C\CNC1=C(C(C1=O)=O)N | C12H19N2O5P
